US06627629B2
Part A. Preparation of (3R, 4S)-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester.
A solution of (3R,4S)-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (prepared according to the procedure of X. Wang, J. F. Espinosa and S. H. Gellman, J. Am. Chem. Soc. 2000, 122, 4821; 107 mg, 295 μmol) in tetrahydrofuran (2 mL) was treated with 1.0 M sodium hydroxide solution (600 μL, 600 μmol) and the heterogenous mixture was stirred at room temperature. After 18 h , the now homogenous solution was treated with 1.0 M hydrochloric acid (600 μL, 600 μmol) and concentrated in vacuo. The residue was dissolved in water and lyophilized to provide the product, along with sodium chloride, as a white solid (115 mg, quantitative), used without further purification. 1H NMR (300 mHz, CD3OD) δ7.48 (m, 5H), 4.44 (m, 1H), 3.89 (m, 1H), 3.78 (m, 1H), 3.44-3.14 (3H), 1.67 (d, 3H), 1.4 (bs, 9H); mass spec. (ES+) m/z 335.3.

reactant | (3R,4S)-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)[C@@H]1CN(C[C@H]1N[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C20H30N2O4
reactant | sodium hydroxide | 600 μmol, 1.0 M, 600 μL | [OH-].[Na+]
reactant | hydrochloric acid | 600 μmol, 1.0 M, 600 μL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (3R, 4S)-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)N[C@H](C)C1=CC=CC=C1)C(=O)O | C18H26N2O4
